US04492692
A solution of 2-fluoro-4-(3-hydroxypropyl)-1-triphenylmethylimidazole in pyridine was treated with phenylisocyanate at ambient temperature. Work up as for the starting materials of Example 9 gave 2-fluoro-4-(3-phenylcarbamoyloxypropyl)-1-triphenylmethylimidazole, having the following n.m.r. spectrum in d6DMSO: 1.87 (m, 2H); 2.48 (t, 2H); 4.08 (t, 2H); 6.31 (s, 1H); 7.0-7.5 (m, 20H); 9.34 (br, 1H).

reactant | 2-fluoro-4-(3-hydroxypropyl)-1-triphenylmethylimidazole | FC=1N(C=C(N1)CCCO)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H23FN2O
reactant | phenylisocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-fluoro-4-(3-phenylcarbamoyloxypropyl)-1-triphenylmethylimidazole | FC=1N(C=C(N1)CCCOC(NC1=CC=CC=C1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H28FN3O2
